US05447949
(E)-3-[2-n-Butyl-1-{(5-carboxy-3-thienyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoic Acid
The title compound was prepared following the procedures described in Example 1 (v-vi) using 2-n-butyl-1-[(5-carbomethoxy-3-thienyl)methyl]imidazol-5-carboxaldehyde (prepared by the methods described in Example 2 (i-iii)) in place of 2-n-butyl-1-[(5-carbomethoxy-2-thienyl)methyl]-imidazol-5-carboxaldehyde; mp 133°-135° C. (d).

reactant | 2-n-butyl-1-[(5-carbomethoxy-3-thienyl)methyl]imidazol-5-carboxaldehyde | C(CCC)C=1N(C(=CN1)C=O)CC1=CSC(=C1)C(=O)OC | C15H18N2O3S
reactant | 2-n-butyl-1-[(5-carbomethoxy-2-thienyl)methyl]-imidazol-5-carboxaldehyde | C(CCC)C=1N(C(=CN1)C=O)CC=1SC(=CC1)C(=O)OC | C15H18N2O3S
product | (E)-3-[2-n-Butyl-1-{(5-carboxy-3-thienyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methyl-2-propenoic Acid | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)O)\CC=1SC=CC1)CC1=CSC(=C1)C(=O)O | C21H22N2O4S2
